* Created by KLayout
*** My special header ***

* cell INV3D
* pin A
* pin Y
* pin gnd
* pin vdd
.SUBCKT INV3D A Y gnd vdd
* device instance $1 r0 *1 4,53.2 PMOS
XM$1 Y A vdd vdd PMOS L=1u W=10.2u AS=539.48p AD=28.56p PS=96.2u PD=26u
* device instance $2 r0 *1 5.4,8.2 NMOS
XM$2 gnd A Y gnd NMOS L=1u W=3.4u AS=9.52p AD=306.89p PS=12.4u PD=77.2u
.ENDS INV3D
